US08357703B2
c) [5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-yl]-methanol
To a solution of 5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazole-4-carboxylic acid ethyl ester (4.0 g, 16.7 mmol) in THF (55 mL) at 0° C. was added lithium aluminum hydride (349 mg, 9.0 mmol). And the resulting mixture stirred for 18 h at room temperature. Water (0.5 mL) was added carefully followed by aqueous sodium hydroxide (15%, 1.0 mL) and water (2.2 mL). The resulting suspension was stirred for 15 min at ambient temperature and filtered over Hyflo®. The filtrate was then evaporated and purification by chromatography (silica, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (1.1 g, 34%) as a colourless gum. MS: m/e=198.1 [M+H]+.

reactant | 5-methyl-3-(tetrahydro-pyran-4-yl)-isoxazole-4-carboxylic acid ethyl ester | 16.7 mmol, 4.0 g | C(C)OC(=O)C=1C(=NOC1C)C1CCOCC1 | C12H17NO4
reactant | lithium aluminum hydride | 9.0 mmol, 349 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 1.0 mL | [OH-].[Na+]
reactant | water | 2.2 mL | O | H2O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | [5-Methyl-3-(tetrahydro-pyran-4-yl)-isoxazol-4-yl]-methanol | 1.1 g, 34% | CC1=C(C(=NO1)C1CCOCC1)CO | C10H15NO3
